US07635715B2
Step B: Preparation of N-((7-Bromo-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)-L-alanine
1,1-Dimethylethyl N-((7-bromo-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)-L-alaninate (184 mg, 436 μmol) was stirred in TFA (2 mL, 26924 μmol) at room temperature for 30 minutes. Water was added. The resulting precipitate was filtered and washed with water to give the desired product as a white solid (93 mg). MS (m/e)=382.1 (M+H)+. Calculated for C21H19NO5 381.02.

reactant | 1,1-Dimethylethyl N-((7-bromo-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)-L-alaninate | 436 μmol, 184 mg | BrC1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)N[C@@H](C)C(=O)OC(C)(C)C)O | C20H24BrNO5
reactant | TFA | 26924 μmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Water | O | H2O
product | N-((7-Bromo-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)-L-alanine | 93 mg | BrC1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)N[C@@H](C)C(=O)O)O | C16H16BrNO5
